US05719141
5(S)-Amino-4(S)-hydroxy-2(R),7,7-trimethyl-8-[3-(R,S)-tert-butoxycarbonyl-1,2,3,4-tetrahydroquinolin-1-ylcarbonyl]-octanoic acid N(-butyl)amide
28 mg of 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-2(R),7,7-trimethyl-8-[3(R,S)-tert-butoxycarbonyl-1,2,3,4-tetrahydroquinolin-1-ylcarbonyl]-octanoic acid (N-butyl)amide are dissolved in 2 ml of 4N hydrochloric acid in dioxane and the solution is stirred at 20° C. for 30 min. The reaction mixture is diluted with dioxane and lyophilized. The crude product is purified by means of FC (5 g of silica gel, mobile phases N and O). This gives the title compound as a diastereomer mixture: Rf (O)=0.32; Rt (I)=23.8 min; FAB-MS: (M+H)+ =532.

reactant | 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-2(R),7,7-trimethyl-8-[3(R,S)-tert-butoxycarbonyl-1,2,3,4-tetrahydroquinolin-1-ylcarbonyl]-octanoic acid (N-butyl)amide | 28 mg | C(CCC)NC([C@@H](C[C@@H]([C@H](CC(CC(=O)N1CC(CC2=CC=CC=C12)C(=O)OC(C)(C)C)(C)C)NC(=O)OC(C)(C)C)O)C)=O | C35H57N3O7
solvent | hydrochloric acid | 4N, 2 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5(S)-Amino-4(S)-hydroxy-2(R),7,7-trimethyl-8-[3-(R,S)-tert-butoxycarbonyl-1,2,3,4-tetrahydroquinolin-1-ylcarbonyl]-octanoic acid N(-butyl)amide | C(CCC)NC([C@@H](C[C@@H]([C@H](CC(CC(=O)N1CC(CC2=CC=CC=C12)C(=O)OC(C)(C)C)(C)C)N)O)C)=O | C30H49N3O5
